US08076488B2
This compound was prepared from 2-chloro-6-fluoro-4-nitrophenol (1.3 g, 6.79 mmol) in the manner described for 4-amino-3-fluorophenol, affording 0.34 g (40%) of 4-amino-2-chloro-6-fluorophenol. 1H-NMR (DMSO-d6) δ 4.99 (s, 2H), 6.29-6.36 (m, 2H), 8.85 (s, 1H).

reactant | 2-chloro-6-fluoro-4-nitrophenol | 6.79 mmol, 1.3 g | ClC1=C(C(=CC(=C1)[N+](=O)[O-])F)O | C6H3ClFNO3
reactant | 4-amino-3-fluorophenol | NC1=C(C=C(C=C1)O)F | C6H6FNO
product | 4-amino-2-chloro-6-fluorophenol | 0.34 g, 40% | NC1=CC(=C(C(=C1)F)O)Cl | C6H5ClFNO
